US08686150B2
(a) 4-[6-(2-Fluoro-4-Hydroxy-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carbonyl]-3,3-dimethyl-piperazine-1-carboxylic acid tert-butyl ester
To a suspension of 6-(2-fluoro-4-Hydroxy-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid (150 mg) in dry dichloromethane (3 mL), N,N-diisopropylethylamine (70 μL), 2-bromo-1-ethylpyridinium tetrafluoroborate (221 mg) and 1-Boc-3,3-dimethylpiperazine (87 mg) were added. The solution was stirred for 30 min. Upon complete conversion, the solution is evaporated in vacuo and 3 mL of 30% sodium methoxide in methanol were added. The mixture was stirred for 30 min, the pH was adjusted to 5 by addition of 2M hydrochloric acid. Ethyl acetate was added and the organic layer was extracted with saturated sodium bicarbonate, 20% aqueous ammonium chloride solution and multiple times with water. The organic layer was dried over sodium sulfate and evaporated to dryness to give 132 mg (58%) of the title compound.

reactant | 6-(2-fluoro-4-Hydroxy-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid | 150 mg | FC1=C(C=CC(=C1)O)C=1C=C(C2=C(N1)N(N=C2C)C2OCCCC2)C(=O)O | C19H18FN3O4
reactant | 2-bromo-1-ethylpyridinium tetrafluoroborate | 221 mg | F[B-](F)(F)F.BrC1=[N+](C=CC=C1)CC
reactant | 1-Boc-3,3-dimethylpiperazine | 87 mg | C(=O)(OC(C)(C)C)N1CC(NCC1)(C)C | C11H22N2O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | N,N-diisopropylethylamine | 70 μL | C(C)(C)N(C(C)C)CC | C8H19N
product | 4-[6-(2-Fluoro-4-Hydroxy-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carbonyl]-3,3-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 132 mg, 58% | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(=O)C=1C2=C(N=C(C1)C1=C(C=C(C=C1)O)F)N(N=C2C)C2OCCCC2)(C)C | C30H38FN5O5
